US06410584B1
According to the method of Production Example 1, a mixed solution of methyl E-3-(2-dimethylaminovinyl)-4-nitrobenzoate (45.05 g), pyridine (23.51 g), acetyl chloride (21.20 g) and methylene chloride (200 ml) is stirred at room temperature for 61 hours, and then heated under reflux with 1,4-dioxane in water for 18 hours to obtain methyl 3-(2-oxopropyl)-4-nitrobenzoate (19.67 g).

reactant | methyl E-3-(2-dimethylaminovinyl)-4-nitrobenzoate | 45.05 g | CN(/C=C/C=1C=C(C(=O)OC)C=CC1[N+](=O)[O-])C | C12H14N2O4
reactant | pyridine | 23.51 g | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 21.20 g | C(C)(=O)Cl | C2H3ClO
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | methyl 3-(2-oxopropyl)-4-nitrobenzoate | 19.67 g | O=C(CC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-])C | C11H11NO5
